US05684151
1-(4-Iodobenzenesulfonyl)-3-(3-trifluoromethyl-4-chlorophenyl)-6-methyl-1,4,5,6-tetrahydropyridazine (Compound 281)
3-(3-trifluoromethyl-4-chlorophenyl)-6-methyl-1,4,5,6-tetrahydropyridazine (700 mg) was combined with 4-iodobenzenesulfonyl chloride (558 mg) and heated to 105° C. for 3 h. Dichloromethane was added and the solution washed with water, 10% HCl, sat'd NaHCO3 and brine. The organic layer was dried (Na2SO4), filtered and solvent removed at reduced pressure to give a residue which was recrystallized from acetone/hexane to give 148 mg of the title compound with mp 157°-158° C.

reactant | 3-(3-trifluoromethyl-4-chlorophenyl)-6-methyl-1,4,5,6-tetrahydropyridazine | 700 mg | FC(C=1C=C(C=CC1Cl)C1=NNC(CC1)C)(F)F | C12H12ClF3N2
reactant | 4-iodobenzenesulfonyl chloride | 558 mg | IC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClIO2S
solvent | Dichloromethane | ClCCl | CH2Cl2
product | 1-(4-Iodobenzenesulfonyl)-3-(3-trifluoromethyl-4-chlorophenyl)-6-methyl-1,4,5,6-tetrahydropyridazine | 148 mg | IC1=CC=C(C=C1)S(=O)(=O)N1N=C(CCC1C)C1=CC(=C(C=C1)Cl)C(F)(F)F | C18H15ClF3IN2O2S
